US05138069
A mixture of 1.12 g of 1-[(2'-carbomethoxybiphenyl-4-yl)methyl]-2-butyl-4-chloroimidazole-5-carboxaldehyde and 0.49 g of N-bromosuccinimide in 40 mL of CCl4 was irradiated (UV-lamp, pyrex filter) for 0.5 hours. The reaction mixture was filtered, and the filtrate was concentrated in vacuo. Column chromatography (elution: ethyl acetate/benzene) afforded 0.54 g of 1-[(2'-carbomethoxybiphenyl-4-yl)-methyl]-2-(1-bromobutyl)-4-chloroimidazole-5-carboxaldehyde. NMR (200 MHz, CDCl3) δ9.87 (s, 1H); 7.86 (d, 1H); 7.54 (t, 1H); 7.46 (t, 1H); 7.30 (m, 3H); 7.11 (d, 2H); 6.16 (d, 1H); 5.32 (d, 1H); 4.79 (t, 1H); 3.65 (s, 3H); 2.32 (m, 2H); 1.34 (sext., 2H); 0.83 (t, 3H).

reactant | 1-[(2'-carbomethoxybiphenyl-4-yl)methyl]-2-butyl-4-chloroimidazole-5-carboxaldehyde | 1.12 g | C(=O)(OC)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1C=O)Cl)CCCC | C23H23ClN2O3
reactant | N-bromosuccinimide | 0.49 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CCl4 | 40 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-[(2'-carbomethoxybiphenyl-4-yl)-methyl]-2-(1-bromobutyl)-4-chloroimidazole-5-carboxaldehyde | 0.54 g | C(=O)(OC)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1C=O)Cl)C(CCC)Br | C23H22BrClN2O3
